US04499016
(S)-3-Amino-2-azetidinone (0.86 g) is suspended in 40 ml of tetrahydrofuran and 5 ml of water is added. A solution of phenylacetic acid (1.36 g) in 10 ml of tetrahydrofuran is added, followed by N-ethyl-N'-(3-dimethylamino)propylcarbodiimide, hydrochloride (1.92 g). The solution is adjusted to pH 4 by the addition of 2N hydrochloric acid and stirred for 1 hour at room temperature. The tetrahydrofuran is removed by evaporation and the remaining suspension is filtered to yield 1 g of (S)-3-[[(phenylmethyl)carbonyl]amino]-2-azetidinone, melting point 182° C., dec.

reactant | (S)-3-Amino-2-azetidinone | 0.86 g | N[C@@H]1C(NC1)=O | C3H6N2O
reactant | water | 5 ml | O | H2O
reactant | phenylacetic acid | 1.36 g | C1(=CC=CC=C1)CC(=O)O | C8H8O2
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | (S)-3-[[(phenylmethyl)carbonyl]amino]-2-azetidinone | 1 g | C1(=CC=CC=C1)CC(=O)N[C@@H]1C(NC1)=O | C11H12N2O2
